US08492388B2
To a stirred solution of 1-methyl-1H-tetrazole (9.35 g, 111 mmol) in anhydrous THF (360 mL), cooled to 0° C. with a brine/ice bath, was added dropwise a solution of isopropylmagnesium chloride (2 M in THF, 55.6 mL, 111 mmol). After the addition was over, the resulting cloudy suspension was stirred for 15 min at 0° C. A solution of N-methoxy-3-(methoxymethyl)-N-methylbenzamide (19.4 g, 92.6 mmol) in THF (60 mL) was then added dropwise while keeping the internal temperature below 5° C. The reaction mixture was then allowed to warm up and stirred at room temperature for 24 h. The reaction mixture was poured into a mixture of ice-cold water (150 mL) and aq. HCl (1 M, 150 mL), the layers were separated, the water phase was extracted with ethyl acetate (2×150 mL) and the combined organic layers were dried (MgSO4). Purification on silica gel afforded [3-(methoxymethyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone as an oil [7.17 g, yield 33%; HPLC/MS m/z=233 (M+H); log P(HCOOH)=2.01].

reactant | 1-methyl-1H-tetrazole | 111 mmol, 9.35 g | CN1N=NN=C1 | C2H4N4
reactant | isopropylmagnesium chloride | 111 mmol, 2 M, 55.6 mL | C(C)(C)[Mg]Cl
reactant | N-methoxy-3-(methoxymethyl)-N-methylbenzamide | 92.6 mmol, 19.4 g | CON(C(C1=CC(=CC=C1)COC)=O)C | C11H15NO3
reactant | HCl | 1 M, 150 mL | Cl | ClH
solvent | THF | 360 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | [3-(methoxymethyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone | yield 33% | COCC=1C=C(C=CC1)C(=O)C1=NN=NN1C | C11H12N4O2
